US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one
Following general procedure M, 1-(6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one (125 mg, 0.31 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (98 mg, 0.34 mmol) to afford the desired product (74 mg, 49%) as a yellow solid. 1H NMR (500 MHz, DMSO d6) δ 10.58 (d, J=7.9 Hz, 1H), 8.96 (s, 1H), 8.30 (d, J=2.1 Hz, 1H), 8.03 (dd, J=8.7, 1.9 Hz, 1H), 7.84 (d, J=8.7 Hz, 1H), 7.771 (s, 2H), 4.19-4.15 (br s, 1H), 3.13 (q, J=7.2 Hz, 2H), 2.56-2.51 (m, 1H), 2.32 (s, 6H), 2.26-2.22 (m, 2H), 1.96-1.89 (m, 2H), 1.56-1.47 (m, 4H), 1.14 (t, J=7.2 Hz, 3H). APCI MS m/z 486 [C26H29Cl2N3O2+H]+; HPLC>99% (AUC), tR=8.28 min.

reactant | 1-(6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one | 0.31 mmol, 125 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C20H26BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.34 mmol, 98 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinolin-3-yl)propan-1-one | 74 mg, 49% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CC)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C26H29Cl2N3O2
